US06004992
8.2 g (40 mmol) of 2-methyl-4-(4-fluorobenzylidene)-oxazol-5-one of Example (II-1) in 100 ml of toluene are heated overnight under reflux with 6.3 g (50 mmol) of 3,4,4-trifluorobut-3-enol, with the addition of 200 mg of 4-dimethylaminopyridine. After cooling, the solution is washed with water and concentrated under reduced pressure and the brown solid is chromatographed over silica gel using the system chloroform/ethyl acetate (4:1). 6.5 g (Yield 49% of theory) of 3,4,4-trifluorobut-3-enyl 3-(4-fluorophenyl)-2-acetylamino-prop-2-enoate of mp.: 116° are obtained.

reactant | 2-methyl-4-(4-fluorobenzylidene)-oxazol-5-one | 40 mmol, 8.2 g | CC=1OC(C(N1)=CC1=CC=C(C=C1)F)=O | C11H8FNO2
reactant | 3,4,4-trifluorobut-3-enol | 50 mmol, 6.3 g | FC(CCO)=C(F)F | C4H5F3O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 3,4,4-trifluorobut-3-enyl 3-(4-fluorophenyl)-2-acetylamino-prop-2-enoate | 6.5 g, Yield 49% | FC1=CC=C(C=C1)C=C(C(=O)OCCC(=C(F)F)F)NC(C)=O | C15H13F4NO3
